US08242133B2
A mixture of 10.0 g of 3-ethylpyridine, 60 ml of acetic acid and 12 ml of 30% hydrogen peroxide solution was stirred while heating at 80° C. for 2.5 hours. To the reaction mixture, 7 ml of 30% hydrogen peroxide solution was added, and the reaction mixture was stirred while heating at 80° C. for further seven hours. The reaction mixture was cooled to room temperature, and sodium carbonate was added to the reaction mixture in small portions. The reaction mixture was filtered, and washed with ethyl acetate. The resultant filtrate was washed with a saturated aqueous solution of sodium hydrogen sulfite and a saturated sodium chloride solution, dried over anhydrous water sodium carbonate. Activated carbon was added, followed by filtration through Celite™. The filtrate was concentrated under reduced pressure to give 6.0 g of 3-ethylpyridine N-oxide.

reactant | 3-ethylpyridine | 10.0 g | C(C)C=1C=NC=CC1 | C7H9N
reactant | hydrogen peroxide | 12 ml | OO | H2O2
reactant | hydrogen peroxide | 7 ml | OO | H2O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 3-ethylpyridine N-oxide | 6.0 g | C(C)C=1C=[N+](C=CC1)[O-] | C7H9NO
